US07557213B2
Step 4: Preparation of 1-(3-Chloro-benzyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 600 mg (1.68 mmol) of 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 4 mL THF and 887 mg (3.70 mmol) of 2-chloro-5-iodo-pyridine in 4 mL THF with 1.93 mL 2M isopropylmagnesium chloride. Yield: 418 mg of a white powder. LC-MSD, m/z for C22H14Cl2N2O2 [M+H]+=409.0, 411.0; HPLC retention time: 3.3 min.

reactant | 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 1.68 mmol, 600 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC(=CC=C1)Cl)C | C19H17ClN2O3
reactant | 2-chloro-5-iodo-pyridine | 3.70 mmol, 887 mg | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | isopropylmagnesium chloride | 2M, 1.93 mL | C(C)(C)[Mg]Cl
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(3-Chloro-benzyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=CC2)Cl)C=CC1 | C22H14Cl2N2O2
